US04351832
A mixture of 2-amino-3-hydroxypyridine and MeOCS2K [prepared from potassium hydroxide (6.2 g), methanol (96 ml), water (17.4 ml) and carbon disulfide (7.1 g)] was refluxed for 20 hr and filtered. The filtrate was neutralized with acetic acid and the resulting precipitate was collected, washed with water and dried to give 2-mercapto-oxazolo[4,5-b]pyridine (8.2 g).

reactant | 2-amino-3-hydroxypyridine | NC1=NC=CC=C1O | C5H6N2O
reactant | potassium hydroxide | 6.2 g | [OH-].[K+]
reactant | methanol | 96 ml | CO | CH4O
reactant | water | 17.4 ml | O | H2O
reactant | carbon disulfide | 7.1 g | C(=S)=S | CS2
product | 2-mercapto-oxazolo[4,5-b]pyridine | 8.2 g | SC=1OC=2C(=NC=CC2)N1 | C6H4N2OS
